US06458772B1
To a solution of 2,2-dimethyl-4-pentenoic acid (11.5 g, 90 mmol) in DMF (250 mL) at room temperature, was added potassium tert-butoxide (11.1 g, 99 mmol). The reaction mixture was stirred at 60° C. for 1 h. 4-Methoxybenzyl chloride (16.9 g, 108 mmol) was added and the reaction mixture was stirred at 60° C. for 4h. The DMF was evaporated under vacuum, the residue was dissolved in ether (500 mL) and washed with water (3×200 mL). The organic phase was dried with NASO, and evaporated to give 21.4 g of 4methoxybenzyl 2,2-dimethyl-4-pentenoate.

reactant | 2,2-dimethyl-4-pentenoic acid | 90 mmol, 11.5 g | CC(C(=O)O)(CC=C)C | C7H12O2
reactant | potassium tert-butoxide | 99 mmol, 11.1 g | CC(C)([O-])C.[K+]
reactant | 4-Methoxybenzyl chloride | 108 mmol, 16.9 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 4methoxybenzyl 2,2-dimethyl-4-pentenoate | 21.4 g | CC(C(=O)OCC1=CC=C(C=C1)OC)(CC=C)C | C15H20O3
